US07247734B2
This compounds was synthesised in the same manner as described above. 3-(3,4-Dimethoxy-phenyl)-6-ethyl-7-hydroxy-chromen-4-one (0.25 g, 0.77 mmol), hydrazine hydrate (4 ml), ethanol (10 ml). The crude solid product was columned to give 4-[4-(3,4-Dimethoxy-phenyl)-1H-pyrazol-3-yl]-6-ethyl-benzene-1,3-diol as a white solid (0.16 g, 61.1%); Rf 0.33 Cf SM 0.71 ethyl acetate/hexane (75/25).

reactant | 3-(3,4-Dimethoxy-phenyl)-6-ethyl-7-hydroxy-chromen-4-one | 0.77 mmol, 0.25 g | COC=1C=C(C=CC1OC)C1=COC2=CC(=C(C=C2C1=O)CC)O | C19H18O5
reactant | hydrazine hydrate | 4 ml | O.NN
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-[4-(3,4-Dimethoxy-phenyl)-1H-pyrazol-3-yl]-6-ethyl-benzene-1,3-diol | 0.16 g, 61.1% | COC=1C=C(C=CC1OC)C=1C(=NNC1)C1=C(C=C(C(=C1)CC)O)O | C19H20N2O4
